US09060515B2
4-iodoaniline (400 mg, 1.8263 mmol) was mixed with sodium L-ascorbic acid (90 mg, 0.46 mmol) in DMSO (25 mL). A solution of sodium azide (241 mg, 3.65 mmol) in water (6.5 mL) was added followed by N,N′-dimethylethane-1,2-diamine (30 mg, 0.4 mmol) and copper iodide (30 mg, 0.2 mmol). The mixture was then heated at 100° C. for 6 h. The mixture was then mixed with a large amount of water (80 mL) and then extracted with EtOAc (3 times). The organics were dried (MgSO4), filtered and concentrated in vacuo to give a residue that was purified by flash chromatography (silica, eluting with MeOH in DCM) to give 4-azidoaniline (150 mg). 1H NMR (400 MHz, DMSO) δ 6.81-6.75 (m, 2H), 6.63-6.57 (m, 2H), 5.13 (s, 2H).

reactant | 4-iodoaniline | 1.8263 mmol, 400 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | sodium L-ascorbic acid | 0.46 mmol, 90 mg | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO.[Na]
reactant | sodium azide | 3.65 mmol, 241 mg | [N-]=[N+]=[N-].[Na+]
reactant | N,N′-dimethylethane-1,2-diamine | 0.4 mmol, 30 mg | CNCCNC | C4H12N2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | 6.5 mL | O | H2O
catalyst | copper iodide | 0.2 mmol, 30 mg | [Cu](I)I
solvent | water | 80 mL | O | H2O
product | 4-azidoaniline | 150 mg | N(=[N+]=[N-])C1=CC=C(N)C=C1 | C6H6N4
